US08530504B2
tert-Butyl(3-bromo-6-methylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate
A tetrahydrofuran (40 mL) solution of tert-butyl(6-methylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate (1.20 g, 4.74 mmol) was cooled to −78° C., and n-butyllithium (1.57 M, 6.64 mL, 10.4 mmol) was added dropwise thereto, and the mixture was stirred for 30 minutes. Then, 1,2-dibromotetrafluoroethane (619 μl, 5.21 mmol) was added to the mixture, and the reaction mixture was warmed to room temperature, and stirred at room temperature for one hour. To the reaction mixture, a saturated aqueous solution of ammonium chloride was added, and a substance of interest was extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by medium pressure silica gel column chromatography (n-heptane/ethyl acetate: 50% then 66%) to obtain 1.39 g (4.32 mmol) of the title compound.

reactant | tert-butyl(6-methylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 4.74 mmol, 1.20 g | C(C)(C)(C)OC(NC=1C(=NN2C1SC=C2)C)=O | C11H15N3O2S
reactant | n-butyllithium | 10.4 mmol, 1.57 M, 6.64 mL | C(CCC)[Li]
reactant | 1,2-dibromotetrafluoroethane | 5.21 mmol, 619 μl | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | tert-Butyl(3-bromo-6-methylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 4.32 mmol, 1.39 g | C(C)(C)(C)OC(NC=1C(=NN2C1SC=C2Br)C)=O | C11H14BrN3O2S
